US05451595
5 g of 2-benzylthio-3-methoxybenzaldehyde are dissolved in 40 ml of ethanol, and 3.9 g of hydroxylamine hydrochloride are added. 40 ml of acetate buffer (pH=5) are added to this solution, and the mixture is stirred for 30 minutes at room temperature. The mixture is poured into water and extracted using ethyl acetate. The organic phase is washed using saline, dried over sodium sulfate, filtered and concentrated. The resulting oil is added to a suspension of 1.6 g of phosphorus pentoxide in20 ml of methanesulfonic acid, and the mixture is stirred overnight at room temperature. The reaction mixture is poured onto ice and extracted using ethyl acetate. The organic phase is washed with saturated sodium hydrogen carbonate solution and with saline and dried over sodium sulfate, filtered and concentrated. After purification by chromatography, 7-methoxybenzisothiazole is obtained in the form of an oil.

reactant | 2-benzylthio-3-methoxybenzaldehyde | 5 g | C(C1=CC=CC=C1)SC1=C(C=O)C=CC=C1OC | C15H14O2S
reactant | hydroxylamine hydrochloride | 3.9 g | Cl.NO
reactant | acetate | 40 ml, pH=5 | C(C)(=O)[O-]
reactant | water | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 7-methoxybenzisothiazole | COC1=CC=CC=2C=NSC21 | C8H7NOS
